US04550105
To a solution of 3 g of (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine in 30 ml of methanol is added 1.17 g of zinc acetate, and the mixture is refluxed for 30 minutes. The reaction mixture is concentrated under reduced pressure, followed by addition of ethyl acetate. The resulting insolubles are removed by filtration, and the filtrate is concentrated under reduced pressure. The residue is purified on a silica-gel column (ethyl acetate: n-hexane=1:1) to give 0.912 g of (3S,4R)-4-methoxy-3-tritylamino-2-oxoazetidine.

reactant | (3S,4S)-4-acetoxy-3-tritylamino-2-oxoazetidine | 3 g | C(C)(=O)O[C@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O3
solvent | methanol | 30 ml | CO | CH4O
catalyst | zinc acetate | 1.17 g | C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
product | (3S,4R)-4-methoxy-3-tritylamino-2-oxoazetidine | 0.912 g | CO[C@@H]1[C@@H](C(N1)=O)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H22N2O2
